*SI6415DQ  MCE  5-28-97
* jjt 4/4/2002: changed sign of VTO to match S-49519—Rev. B, 18-Dec-96 datasheet.
*30V 6A 0.017ohm Power MOSFET pkg:SMD8B 1,4,6
.SUBCKT SI6415DQ 10 20 40 40
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  7.08M
RS  40  3  1.43M
RG  20  2  23.1
CGS  2  3  2.85N
EGD 12  0  1  2  1
VFB 14  0  0
FFB  1  2  VFB  1
CGD 13 14  3.1N
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD 10  3  DSUB
LS  30 40  7.5N
.MODEL DMOS PMOS (LEVEL=3 VMAX=62.5K THETA=80M ETA=2M VTO=-1 KP=102)
.MODEL DCGD D (CJO=3.1N VJ=0.6 M=0.68)
.MODEL DSUB D (IS=27N N=1.5 RS=0 BV=30 CJO=1.04N VJ=0.8 M=0.42 TT=40N)
.MODEL DLIM D (IS=100U)
.ENDS 